US08957104B2
4-Chloro-1-(3-oxobutan-2-yl)-1H-indole-5-carbonitrile
Synthesized in a manner similar to Example 1 using 4-chloro-1H-indole-5-carbonitrile (see, for example, US2008139631A1) and 3-bromobutan-2-one: MS (ESI): m/z 247 (MH+).

reactant | 4-chloro-1H-indole-5-carbonitrile | ClC1=C2C=CNC2=CC=C1C#N | C9H5ClN2
reactant | 3-bromobutan-2-one | BrC(C(C)=O)C | C4H7BrO
product | 4-Chloro-1-(3-oxobutan-2-yl)-1H-indole-5-carbonitrile | ClC1=C2C=CN(C2=CC=C1C#N)C(C)C(C)=O | C13H11ClN2O
